US07320994B2
{3-[1-(3,5-bis-trifluoromethyl-benzyl)-5-pyridin-4-yl-1H-[1,2,3]triazol-4-yl]-pyridin-2-yl}-(2-chloro-phenyl)-methanone
Add Pd2(dba)3.CHCl3 (42 mg, 0.04 mmol) to a degassed solution of trifluoro-methanesulfonic acid 2-(2-chloro-benzoyl)-pyridin-3-yl ester (149 mg, 0.41 mmol) and 4-[3-(3,5-bis-trifluoromethyl-benzyl)-5-tributylstannanyl-3H-[1,2,3]triazol-4-yl]-pyridine (296 mg, 0.45 mmol) in toluene (2 mL). Seal the mixture under N2 and heat at 120° C. for 2 hours. Add Pd(PPh3)4 (94 mg, 0.08 mmol), seal and heat at 120° C. for another 48 hours. Concentrate, dissolve in ACN, wash with hexanes (×3), dry over MgSO4 and concentrate. Purify the residue by flash chromatography on silica gel eluting with 0-10% ACN/Et2O to afford the title compound (26 mg, 11%) as tan solid. MS(IS) 588 (M+1). TLC: Rf=0.33 (10% ACN/Et2O).

reactant | CHCl3 | 0.04 mmol, 42 mg | C(Cl)(Cl)Cl | CHCl3
reactant | trifluoro-methanesulfonic acid 2-(2-chloro-benzoyl)-pyridin-3-yl ester | 0.41 mmol, 149 mg | ClC1=C(C(=O)C2=NC=CC=C2OS(=O)(=O)C(F)(F)F)C=CC=C1 | C13H7ClF3NO4S
reactant | 4-[3-(3,5-bis-trifluoromethyl-benzyl)-5-tributylstannanyl-3H-[1,2,3]triazol-4-yl]-pyridine | 0.45 mmol, 296 mg | FC(C=1C=C(CN2N=NC(=C2C2=CC=NC=C2)[Sn](CCCC)(CCCC)CCCC)C=C(C1)C(F)(F)F)(F)F
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Pd(PPh3)4 | 0.08 mmol, 94 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | {3-[1-(3,5-bis-trifluoromethyl-benzyl)-5-pyridin-4-yl-1H-[1,2,3]triazol-4-yl]-pyridin-2-yl}-(2-chloro-phenyl)-methanone | 26 mg, 11% | FC(C=1C=C(CN2N=NC(=C2C2=CC=NC=C2)C=2C(=NC=CC2)C(=O)C2=C(C=CC=C2)Cl)C=C(C1)C(F)(F)F)(F)F | C28H16ClF6N5O
